### PR TITLE
[Merged by Bors] - feat: define the ordinary hypergeometric function

### PR DESCRIPTION
**Pull request by EdwardWatine**
Add the definition of the ordinary hypergeometric series, and show that its radius is one. Part of this requires an additional theorem about ascPochhammer, which is found in the Pochhammer file. Closely follows the exponential series definition.

#15966

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by EdwardWatine** [comment]
I intend to PR the commented inline theorem in Pochhammer after the subsequent build after this is merged, in order to limit the scope of this PR

File: Mathlib/RingTheory/Polynomial/Pochhammer.lean [hunk 1]
```diff
@@ -372,4 +372,49 @@ theorem descPochhammer_int_eq_ascFactorial (a b : ℕ) :
   rw [← Nat.cast_add, descPochhammer_eval_eq_descFactorial ℤ (a + b) b,
     Nat.add_descFactorial_eq_ascFactorial]
 
+/- If the Pochhammer function is evaluated at a sufficiently large non-postive integer, then it is
+zero. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Pochhammer.lean:376]:
```suggestion
/- If the `n`-th Pochhammer function is evaluated at a sufficiently large non-postive integer, then it is
zero.

 Specifically, "sufficiently large" means any integer between `1 - n` and `0`. -/
```

File: Mathlib/RingTheory/Polynomial/Pochhammer.lean [hunk 2]
```diff
@@ -372,4 +372,49 @@ theorem descPochhammer_int_eq_ascFactorial (a b : ℕ) :
...
+theorem ascPochhammer_eq_zero_of_nonpos_int {R : Type u} [Ring R] {n : ℕ} {k : R}
+    (hnk : ∃ kn : ℤ, kn ≤ 0 ∧ k = kn ∧ n ≥ 1 - kn) : (ascPochhammer R n).eval k = 0 := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Pochhammer.lean:378]: I would be inclined to rewrite this as
```suggestion
    (hnk : ∃ kn : ℤ, 1 - n ≤ k ∧ kn ≤ 0 ∧ k = kn) : (ascPochhammer R n).eval k = 0 := by
```

Comment (EdwardWatine) [reply Mathlib/RingTheory/Polynomial/Pochhammer.lean:378]: Can I get a sense of why you prefer it? I understand rewriting the inequality, but to me, limiting kn to a non-positive integer makes sense directly after the existential binder of kn.

Comment (ocfnash) [reply Mathlib/RingTheory/Polynomial/Pochhammer.lean:378]: Of course I'm not the author of the suggestion but one point is that except for certain very specific situations, we avoid using `>` and `≥` and instead use `<` and `≤`. This reduces the need for rewrites.

(Aside: speaking of rewrites, I notice that elsewhere you're using the long-form `rewrite` tactic: we always use `rw` instead.)

Another point I notice here is that it's usually unhelpful to pass a raw existential as hypothesis: instead just demand the data that demonstrates it is true. Finally (and this point is, I think, subjective) I would probably just use a natural number rather than non-positive integer. With all these in mind, I'd state this lemma as:
```lean
theorem ascPochhammer_eval_neg_coe_nat_of_le {R : Type u} [Ring R] {n : ℕ} {k : ℕ} (h : 1 + k ≤ n) :
    (ascPochhammer R n).eval (-(k : R)) = 0 := by
```
or if you aren't convinced by the subjective point maybe:
```lean
theorem ascPochhammer_eval_coe_int_of_le_of_le {R : Type u} [Ring R] {n : ℕ} {k : ℤ}
    (h₁ : k ≤ 0) (h₂ : 1 - k ≤ n) : (ascPochhammer R n).eval (k : R) = 0 :=
```

As a final remark, I'd like to say I'm delighted and very grateful to see this PR! I have a backlog of work and review at the moment so I will have to wait till the weekend to give thorough review.

Comment (EdwardWatine) [reply Mathlib/RingTheory/Polynomial/Pochhammer.lean:378]: Thanks for the feedback, I'll replace `rewrite` with `rw`, flip the inequalities and expand the existential as you say. I'm slightly unconvinced by the use of a natural in the way you do, what do you think of this?
```
theorem ascPochhammer_eval_neg_coe_nat_of_lt {R : Type u} [Ring R] {n k : ℕ} {r : R} (hr : r = -↑k) 
    (h : k < n) :
    (ascPochhammer R n).eval r = 0 := by sorry
```
The problem with the goal having `-(k : R)` in the result is that it becomes awkward to manipulate expressions that aren't in that exact form (and you can't use `rw`), whereas taking it into a hypothesis allows delaying it by easily moving it into a goal. I'm sure this situation must come up a lot in Mathlib, so I don't know what the best practice is, but it feels clunky to work with otherwise.

Comment (ocfnash) [reply Mathlib/RingTheory/Polynomial/Pochhammer.lean:378]: The hypothesis `hr` is of the form `x = f y` for some function `f`. To use a such a lemma you must have (or be able to construct) the equation `x = f y` and so you should just rewrite your goal before calling the lemma. Otherwise we have a less general lemma and potentially need to write lemmas for many functions `f`.

So I still think the form I proposed is the way to go.

Comment (EdwardWatine) [reply Mathlib/RingTheory/Polynomial/Pochhammer.lean:378]: Alright, this will need a bit of refactoring then 😁

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 3]
```diff
@@ -0,0 +1,282 @@
...
+/-- This naming follows the convention of `NormedSpace.expSeries_apply_eq'`. -/
+theorem ordinaryHypergeometricSeries_apply_eq' (x : 𝔸) :
+    (fun n => ordinaryHypergeometricSeries 𝔸 a b c n fun _ => x) =
+    fun n => ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
+    ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n := by
+  simp [ordinaryHypergeometricSeries]
+
+theorem ordinaryHypergeometric_sum_eq (x : 𝔸) : (ordinaryHypergeometricSeries 𝔸 a b c).sum x =
+    ∑' n : ℕ, ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
+    ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n :=
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:91]:
```suggestion
theorem ordinaryHypergeometric_sum_eq (x : 𝔸) :
    (ordinaryHypergeometricSeries 𝔸 a b c).sum x =
      ∑' n : ℕ, ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
        ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n :=
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 4]
```diff
@@ -0,0 +1,282 @@
...
+    (ordinaryHypergeometricSeries 𝔸 a b c n fun _ => x) =
+    ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
+    ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n := by
+  simp [ordinaryHypergeometricSeries]
+
+/-- This naming follows the convention of `NormedSpace.expSeries_apply_eq'`. -/
+theorem ordinaryHypergeometricSeries_apply_eq' (x : 𝔸) :
+    (fun n => ordinaryHypergeometricSeries 𝔸 a b c n fun _ => x) =
+    fun n => ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
+    ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n := by
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:86]:
```suggestion
    (fun n => ordinaryHypergeometricSeries 𝔸 a b c n fun _ => x) =
      fun n => ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
        ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n := by
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 5]
```diff
@@ -0,0 +1,282 @@
...
+noncomputable def ordinaryHypergeometric (x : 𝔸) : 𝔸 :=
+  (ordinaryHypergeometricSeries 𝔸 a b c).sum x
+
+@[inherit_doc]
+notation "₂F₁" => ordinaryHypergeometric
+
+theorem ordinaryHypergeometricSeries_apply_eq (x : 𝔸) (n : ℕ) :
+    (ordinaryHypergeometricSeries 𝔸 a b c n fun _ => x) =
+    ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
+    ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n := by
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:79]: Style nit: when line-length forces us to break a term over multiple lines, it is desirable to signal this with indentation:
```suggestion
    (ordinaryHypergeometricSeries 𝔸 a b c n fun _ => x) =
      ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b *
        ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n := by
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:91]: (etc. several other examples below)

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 6]
```diff
@@ -0,0 +1,282 @@
...
+  tsum_congr fun n => ordinaryHypergeometricSeries_apply_eq a b c x n
+
+theorem ordinaryHypergeometric_eq_tsum : ₂F₁ a b c =
+    fun (x : 𝔸) => ∑' n : ℕ, ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a *
+    (ascPochhammer 𝕂 n).eval b * ((ascPochhammer 𝕂 n).eval c)⁻¹ ) • x ^ n :=
+  funext (ordinaryHypergeometric_sum_eq a b c)
+
+theorem ordinaryHypergeometricSeries_apply_zero (n : ℕ) :
+    (ordinaryHypergeometricSeries 𝔸 a b c n fun _ => (0:𝔸)) =
+    Pi.single (f := fun _ => 𝔸) 0 1 n := by
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:101]:
```suggestion
    (ordinaryHypergeometricSeries 𝔸 a b c n fun _ => 0) = Pi.single (f := fun _ => 𝔸) 0 1 n := by
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 7]
```diff
@@ -0,0 +1,282 @@
...
+theorem ordinaryHypergeometric_unop [T2Space 𝔸] (x : 𝔸ᵐᵒᵖ) :
+    ₂F₁ a b c (MulOpposite.unop x) = MulOpposite.unop (₂F₁ a b c x) := by
+  simp [ordinaryHypergeometric, ordinaryHypergeometric_sum_eq, ← MulOpposite.unop_pow,
+     ← MulOpposite.unop_smul, tsum_unop]
+
+theorem ordinaryHypergeometricSeries_symm :
+    ordinaryHypergeometricSeries 𝔸 a b c = ordinaryHypergeometricSeries 𝔸 b a c := by
+  ext
+  simp [ordinaryHypergeometricSeries]
+  group
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:126]: This is a [non-terminal simp](https://leanprover-community.github.io/extras/simp.html#non-terminal-simps) so we should excise it. In this case, an alternative is:
```suggestion
  simp [ordinaryHypergeometricSeries, mul_assoc, mul_left_comm]
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 8]
```diff
@@ -0,0 +1,282 @@
...
+/-- If any parameter to the series is a sufficiently large nonpositive integer, then the series
+term is zero. -/
+lemma ordinaryHypergeometricSeries_eq_zero_of_neg_nat {n k : ℕ}
+    (habc : k = -a ∨ k = -b ∨ k = -c) (hk : k < n) :
+    ordinaryHypergeometricSeries 𝔸 a b c n = 0 := by
+  rw [ordinaryHypergeometricSeries]
+  rcases habc with h | h | h
+  all_goals
+    ext
+    simp [(ascPochhammer_eval_eq_zero_iff n _).2 ⟨k, h, hk⟩]
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:137]: Optional:
```suggestion
  rcases habc with h | h | h <;>
  ext <;>
  simp [(ascPochhammer_eval_eq_zero_iff n _).2 ⟨k, h, hk⟩]
```
(though on second thought, what you have may in fact be better)

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 9]
```diff
@@ -0,0 +1,282 @@
...
+
+end Field
+
+section RCLike
+
+open Asymptotics Filter Real Set Nat
+
+variable {𝕂 : Type*} (𝔸 𝔹 : Type*) [RCLike 𝕂] [NormedDivisionRing 𝔸] [NormedAlgebra 𝕂 𝔸]
+  (a b c : 𝕂)
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:146]: It looks like `𝔹` is a relic and can go:
```suggestion
variable {𝕂 : Type*} (𝔸 : Type*) [RCLike 𝕂] [NormedDivisionRing 𝔸] [NormedAlgebra 𝕂 𝔸] (a b c : 𝕂)
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 10]
```diff
@@ -0,0 +1,282 @@
...
+
+theorem ordinaryHypergeometric_radius_top_of_neg_nat₁ {ak : ℕ} (ha : ak = -a) :
+    (ordinaryHypergeometricSeries 𝔸 a b c).radius = ⊤ := by
+  apply FormalMultilinearSeries.radius_eq_top_of_forall_image_add_eq_zero _ (1 + ak)
+  exact fun _ ↦ ordinaryHypergeometricSeries_eq_zero_of_neg_nat a b c (Or.inl ha) (by linarith)
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:151]: As mentioned elsewhere, it's almost never desirable to have a hypothesis containing an equality. So we should spell this:
```suggestion
theorem ordinaryHypergeometric_radius_top_of_neg_nat₁ {k : ℕ} :
    (ordinaryHypergeometricSeries 𝔸 (-(k : 𝕂)) b c).radius = ⊤ := by
  refine FormalMultilinearSeries.radius_eq_top_of_forall_image_add_eq_zero _ (1 + k) fun n ↦ ?_
  exact ordinaryHypergeometricSeries_eq_zero_of_neg_nat (-(k : 𝕂)) b c
    (Or.inl (neg_neg _).symm) (by omega)
```
and likewise below

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 11]
```diff
@@ -0,0 +1,282 @@
...
+  all_goals
+    rw [norm_ne_zero_iff]
+  any_goals
+    apply (ascPochhammer_eval_eq_zero_iff n _).not.2
+    push_neg
+    exact fun kn hkn ↦ habc kn (by tauto)
+  exact cast_ne_zero.2 (factorial_ne_zero n)
+
+private theorem linear_div_tendsto_one_atTop :
+    Tendsto (fun (k:ℕ) ↦ (a + k) / (b + k)) atTop (nhds 1) := by
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:215]: If you add `open scoped Topology` higher up then you can use notation for `nhds`:
```suggestion
    Tendsto (fun (k:ℕ) ↦ (a + k) / (b + k)) atTop (𝓝 1) := by
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 12]
```diff
@@ -0,0 +1,282 @@
...
+theorem ordinaryHypergeometric_radius_top_of_neg_nat₃ {ck : ℕ} (hc : ck = -c) :
+    (ordinaryHypergeometricSeries 𝔸 a b c).radius = ⊤ := by
+  apply FormalMultilinearSeries.radius_eq_top_of_forall_image_add_eq_zero _ (1 + ck)
+  refine fun _ ↦ ordinaryHypergeometricSeries_eq_zero_of_neg_nat a b c (Or.inr <| Or.inr hc)
+    (by linarith)
+
+/-- An iff variation on `ordinaryHypergeometricSeries_eq_zero_of_nonpos_int` for `[RCLike 𝕂]`. -/
+lemma ordinaryHypergeometricSeries_eq_zero_iff (n : ℕ) :
+    ordinaryHypergeometricSeries 𝔸 a b c n = 0 ↔
+    ∃ k : ℕ, (k = -a ∨ k = -b ∨ k = -c) ∧ k < n := by
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:167]: How about:
```suggestion
    ∃ k < n, k = -a ∨ k = -b ∨ k = -c := by
```

**Review by ocfnash — COMMENTED** [review]
Thanks again for this: it looks great, and not far from being ready to merge.

I'll have a look again when you've had a chance to react to my review so far.

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean (hunk 8 above)
Comment (EdwardWatine) [reply Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:137]: Yes, I think I prefer the original

File: Mathlib/RingTheory/Polynomial/Pochhammer.lean [hunk 13]
```diff
@@ -372,4 +372,40 @@ theorem descPochhammer_int_eq_ascFactorial (a b : ℕ) :
...
+theorem ascPochhammer_eval_neg_coe_nat_of_lt {R : Type u} [Ring R] {n k : ℕ} (h : k < n) :
+    (ascPochhammer R n).eval (-(k : R)) = 0 := by
+  induction n with
+  | zero => exact False.elim (Nat.not_lt_zero k h)
+  | succ n ih =>
+    rw [ascPochhammer_succ_eval]
+    have {a b : R} : a = 0 ∨ b = 0 → a * b = 0 := -- This theorem should be moved to `mul_eq_zero`
+      fun o => o.elim (fun h => mul_eq_zero_of_left h b) (mul_eq_zero_of_right a)
+    refine this <| or_iff_not_imp_left.2 fun np => ?_
+    simp [(Nat.lt_succ_iff_lt_or_eq.1 h).resolve_left (ih.mt np)]
```
[the remark this answers is not in the document]
Comment (EdwardWatine) [reply Mathlib/RingTheory/Polynomial/Pochhammer.lean:386]: Ah this is clever! I do like explicit proofs where it helps make things clear, however I like yours better.

**Comment by ocfnash** [comment]
@EdwardWatine Note that this is currently failing CI!

**Comment by ocfnash** [comment]
One other high level comment as I look at the material in this PR and the similar API for the exponential series is that we should probably introduce a definition:
```lean
def FormalMultilinearSeries.ofScalars (c : ℕ → 𝕂) : FormalMultilinearSeries 𝕂 𝔸 𝔸 :=
  fun n ↦ c n • ContinuousMultilinearMap.mkPiAlgebraFin 𝕂 n 𝔸
```
and develop some API for that. I think it would simplify the work here.

**Comment by EdwardWatine** [comment]
Whoops, I keep forgetting to restart the file after changing the other one...
I agree with adding some more support for scalar Multilinear series, perhaps this could be extended to multiple types of series and not just MkPiAlgebraFin?

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 14]
```diff
@@ -0,0 +1,285 @@
...
+open scoped Topology
+
+variable {𝕂 : Type*} (𝔸 : Type*) [RCLike 𝕂] [NormedDivisionRing 𝔸] [NormedAlgebra 𝕂 𝔸]
+  (a b c : 𝕂)
+
+theorem ordinaryHypergeometric_radius_top_of_neg_nat₁ {k : ℕ} :
+    (ordinaryHypergeometricSeries 𝔸 (-(k : 𝕂)) b c).radius = ⊤ := by
+  refine FormalMultilinearSeries.radius_eq_top_of_forall_image_add_eq_zero _ (1 + k) fun n ↦ ?_
+  exact ordinaryHypergeometricSeries_eq_zero_of_neg_nat (-(k : 𝕂)) b c
+    (Or.inl (neg_neg _).symm) (by omega)
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:154]: I realise the proof using the explicit `neg_neg` was part of a previous suggestion I made, but I now realise we can avoid grovelling around with these low-level terms by just using `aesop`:
```suggestion
  exact ordinaryHypergeometricSeries_eq_zero_of_neg_nat (-(k : 𝕂)) b c (by aesop) (by omega)
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 15]
```diff
@@ -0,0 +1,285 @@
...
+theorem ordinaryHypergeometric_radius_top_of_neg_nat₂ {k : ℕ} :
+    (ordinaryHypergeometricSeries 𝔸 a (-(k : 𝕂)) c).radius = ⊤ := by
+  rw [ordinaryHypergeometricSeries_symm]
+  exact ordinaryHypergeometric_radius_top_of_neg_nat₁ 𝔸 a c
+
+theorem ordinaryHypergeometric_radius_top_of_neg_nat₃ {k : ℕ} :
+    (ordinaryHypergeometricSeries 𝔸 a b (-(k : 𝕂))).radius = ⊤ := by
+  refine FormalMultilinearSeries.radius_eq_top_of_forall_image_add_eq_zero _ (1 + k) fun n ↦ ?_
+  exact ordinaryHypergeometricSeries_eq_zero_of_neg_nat a b (-(k : 𝕂))
+    (Or.inr <| Or.inr (neg_neg _).symm) (by omega)
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:165]:
```suggestion
  exact ordinaryHypergeometricSeries_eq_zero_of_neg_nat a b (-(k : 𝕂)) (by aesop) (by omega)
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 16]
```diff
@@ -0,0 +1,285 @@
...
+
+/-- An iff variation on `ordinaryHypergeometricSeries_eq_zero_of_nonpos_int` for `[RCLike 𝕂]`. -/
+lemma ordinaryHypergeometricSeries_eq_zero_iff (n : ℕ) :
+    ordinaryHypergeometricSeries 𝔸 a b c n = 0 ↔
+      ∃ k < n, (k = -a ∨ k = -b ∨ k = -c) := by
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:170]: Nitpick: redundant hypotheses:
```suggestion
      ∃ k < n, k = -a ∨ k = -b ∨ k = -c := by
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 17]
```diff
@@ -0,0 +1,285 @@
...
+  refine ⟨fun h ↦ ?_, fun zero ↦ ?_⟩
+  · rw [ordinaryHypergeometricSeries,
+      smul_eq_zero (c:=(_ * (Polynomial.eval c (ascPochhammer 𝕂 n))⁻¹))
+      (x:=ContinuousMultilinearMap.mkPiAlgebraFin 𝕂 n 𝔸)] at h
+    cases' h with h hm
+    · simp only [_root_.mul_eq_zero, inv_eq_zero] at h
+      rcases h with ((hn | h) | h) | h
+      · exact False.elim <| Nat.cast_ne_zero.2 (Nat.factorial_ne_zero n) hn
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:178]: Again, let's lean on our tactics a bit more:
```suggestion
      · simp [Nat.factorial_ne_zero] at hn
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 18]
```diff
@@ -0,0 +1,285 @@
...
+      all_goals
+        let ⟨kn, hkn, hn⟩ := (ascPochhammer_eval_eq_zero_iff _ _).1 h
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:180]: Style nit: I think it's more idiomatic to use `obtain` here:
```suggestion
        obtain ⟨kn, hkn, hn⟩ := (ascPochhammer_eval_eq_zero_iff _ _).1 h
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 19]
```diff
@@ -0,0 +1,285 @@
...
+  all_goals
+    rw [norm_ne_zero_iff]
+  any_goals
+    apply (ascPochhammer_eval_eq_zero_iff n _).not.2
+    push_neg
+    exact fun kn hkn ↦ by simp [habc kn hkn]
+  exact cast_ne_zero.2 (factorial_ne_zero n)
+
+private theorem linear_div_tendsto_one_atTop :
+    Tendsto (fun (k:ℕ) ↦ (a + k) / (b + k)) atTop (𝓝 1) := by
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:218]: We like spaces (and don't need to parentheses):
```suggestion
    Tendsto (fun k : ℕ ↦ (a + k) / (b + k)) atTop (𝓝 1) := by
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 20]
```diff
@@ -0,0 +1,285 @@
...
+  apply Filter.Tendsto.congr'
+  case f₁ => exact fun k ↦ (a * (↑k)⁻¹ + 1) / (b * (↑k)⁻¹ + 1)
+  refine ((eventually_ne_atTop 0).mp (Eventually.of_forall ?_))
+  · intro h hx
+    simp only []
+    have hx' := (Nat.cast_ne_zero (R:=𝕂)).2 hx
+    rw [← mul_div_mul_right _ _ hx', add_mul, add_mul, inv_mul_cancel_right₀ hx',
+      inv_mul_cancel_right₀ hx', one_mul]
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:226]: There's a nice tactic for this situation:
```suggestion
    field_simp [hx]
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean (hunk 19 above)
Comment (ocfnash) [reply Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:218]: (also below in a few spots)

Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:218]: This lemma is useful enough to exist generally. I propose calling it:
```lean
theorem RCLike.tendsto_add_div_add_atTop_nhds_one (a b : 𝕜) :
    Tendsto (fun k : ℕ ↦ (a + k) / (b + k)) atTop (𝓝 1) := by
```
and placing it just below `RCLike.tendsto_inverse_atTop_nhds_zero_nat` in `Mathlib.SpecificLimits.RCLike`.

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 21]
```diff
@@ -0,0 +1,285 @@
...
+is used in the proof `ordinaryHypergeometric_ratio_tendsto_nhds_atTop`. -/
+theorem ordinaryHypergeometricSeries_ratio_tendsto_one_atTop :
+    Tendsto (fun (k:ℕ) ↦ (a + k) * (b + k) * (c + k)⁻¹ * ((1 : 𝕂) + k)⁻¹) atTop (𝓝 1) := by
+  conv =>
+    enter [1, n]
+    rw [mul_assoc, ← mul_inv, ← div_eq_mul_inv, mul_div_mul_comm]
+  apply (mul_one (1:𝕂)) ▸ Filter.Tendsto.mul
+  all_goals apply linear_div_tendsto_one_atTop
+
+/-- The ratio of successive terms of the sum `ordinaryHypergeometric a b c r` is `r`. This theroem
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:243]:
```suggestion
/-- The ratio of successive terms of the sum `ordinaryHypergeometric a b c r` is `r`. This theorem
```

**Review by ocfnash — COMMENTED** [review]
Looking great, a few more nitpicks below:

**Comment by ocfnash** [comment]
> I agree with adding some more support for scalar Multilinear series, perhaps this could be extended to multiple types of maps and not just MkPiAlgebraFin?

I think `MkPiAlgebraFin` is special enough to deserve it's own dedicated API. If you have the appetite to write this as part of this PR and use it to implement the work here then that would be great. If not, I'm also OK with deferring this for now and I'll do one final round of review after you've had a chance to react to my latest round of nitpicks.

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean (hunk 19 above)
Comment (EdwardWatine) [reply Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:218]: Yes I agree, another aim I have for the future is improve the api around cobounded limits, it doesn't really seem to exist, but that would take some work to do properly.

**Comment by EdwardWatine** [comment]
I was having a look for adding API as you suggest, but I'm not entirely sure where it would lie. Ideally it would go in Mathlib\Analysis\Calculus\FormalMultilinearSeries.lean, but we really want to be able to use other results that come from other files such as Mathlib\Analysis\Analytic\Basic.lean and Mathlib\Analysis\NormedSpace\Multilinear\Basic.lean (I think). Perhaps this needs a new file?

File: Mathlib/Analysis/Analytic/OfScalars.lean [hunk 22]
```diff
@@ -0,0 +1,120 @@
...
+  exact (mul_le_of_le_one_right (norm_nonneg _)
+    (ContinuousMultilinearMap.norm_mkPiAlgebraFin_le_of_pos hn))
+
+@[simp]
+theorem ofScalars_norm [NormOneClass E] : ‖ofScalars E c n‖ = ‖c n‖ := by
+  simp [ofScalars_norm_eq_mul]
+
+/-- The radius of convergence of a scalar series is the inverse of the ratio of the norms of the
+coefficients. -/
+theorem ofScalars_radius_of_tendsto [NormOneClass E] {r : NNReal} (hr : r ≠ 0)
```
Comment (ocfnash) [inline Mathlib/Analysis/Analytic/OfScalars.lean:92]: How about we call this:
```suggestion
theorem ofScalars_radius_eq_inv_of_tendsto [NormOneClass E] {r : NNReal} (hr : r ≠ 0)
```
and then add the following convenience lemma below:
```lean
theorem ofScalars_radius_eq_of_tendsto [NormOneClass E] {r : NNReal} (hr : r ≠ 0)
    (hc : Tendsto (fun n ↦ ‖c n‖ / ‖c n.succ‖) atTop (𝓝 r)) :
      (ofScalars E c).radius = ENNReal.ofNNReal r := by
  suffices Tendsto (fun n ↦ ‖c n.succ‖ / ‖c n‖) atTop (𝓝 r⁻¹) by
    convert ofScalars_radius_eq_inv_of_tendsto E c (inv_ne_zero hr) this
    simp
  convert (continuousAt_inv₀ <| NNReal.coe_ne_zero.mpr hr).tendsto.comp hc
  simp
```
(which should actually be better suited to your application)

File: Mathlib/Analysis/Analytic/OfScalars.lean [hunk 23]
```diff
@@ -0,0 +1,120 @@
...
+
+
+/-!
+# Scalar series
+
+This file defines an API for `FormalMultilinearSeries.ofScalars`, which is a
+formal power series `∑ cᵢ • xⁱ`. It contains several convenience theorems, which are especially
+useful because Lean fails to recognise the scalar multiplication automatically. The main result of
+this file is `FormalMultilinearSeries.ofScalars_radius_of_tendsto`, which asserts the radius of
+convergence is equal to $\lim_{n \to \infty} \|c_{n+1}\|\cdot\|c_n\|^{-1}$ as long as it is not `0`.
```
Comment (ocfnash) [inline Mathlib/Analysis/Analytic/OfScalars.lean:16]:
```suggestion
This file contains API for analytic functions `∑ cᵢ • xⁱ` defined in terms of scalars
`c₀, c₁, c₂, …`.

## Main definitions / results:
 * `FormalMultilinearSeries.ofScalars`: the formal power series `∑ cᵢ • xⁱ`.
 * `FormalMultilinearSeries.ofScalars_radius_eq_of_tendsto`: the ratio test for an analytic function
   defined in terms of a formal power series `∑ cᵢ • xⁱ`.
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 24]
```diff
@@ -0,0 +1,221 @@
...
+    by ring_nf
+  rw [this, inv_inv, inv_inv]
+  repeat rw [DivisionRing.mul_inv_cancel, one_mul]
+  all_goals
+    rw [norm_ne_zero_iff]
+  any_goals
+    apply (ascPochhammer_eval_eq_zero_iff n _).not.2
+    push_neg
+    exact fun kn hkn ↦ by simp [habc kn hkn]
+  exact cast_ne_zero.2 (factorial_ne_zero n)
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:193]: Just remarking that there might be a nice `calc` proof available for this (no action required unless you want).

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 25]
```diff
@@ -0,0 +1,221 @@
...
+open Nat FormalMultilinearSeries
+
+section Field
+
+variable {𝕂 : Type*} (𝔸 : Type*) [Field 𝕂] [Ring 𝔸] [Algebra 𝕂 𝔸] [TopologicalSpace 𝔸]
+  [TopologicalRing 𝔸]
+
+/-- The coefficients in the ordinary hypergeometric sum. -/
+noncomputable abbrev ordinaryHypergeometricCoefficient (a b c : 𝕂) := fun n => ((n !⁻¹ : 𝕂) *
+    (ascPochhammer 𝕂 n).eval a * (ascPochhammer 𝕂 n).eval b * ((ascPochhammer 𝕂 n).eval c)⁻¹)
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:61]: We should follow the [Left of Colon](https://leanprover-community.github.io/contribute/style.html#hypotheses-left-of-colon) style here:
```suggestion
noncomputable abbrev ordinaryHypergeometricCoefficient (a b c : 𝕂) (n : ℕ) :=
  ((n !⁻¹ : 𝕂) * (ascPochhammer 𝕂 n).eval a *
    (ascPochhammer 𝕂 n).eval b * ((ascPochhammer 𝕂 n).eval c)⁻¹)
```

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 26]
```diff
@@ -0,0 +1,221 @@
...
+    exact fun kn hkn ↦ by simp [habc kn hkn]
+  exact cast_ne_zero.2 (factorial_ne_zero n)
+
+/-- The ratio of successive terms of `ordinaryHypergeometricSeries` tends to one. This theorem
+is used in the proof `ordinaryHypergeometric_ratio_tendsto_nhds_atTop`. -/
+theorem ordinaryHypergeometricSeries_ratio_tendsto_one_atTop :
+    Tendsto (fun k : ℕ ↦ (a + k) * (b + k) * (c + k)⁻¹ * ((1 : 𝕂) + k)⁻¹) atTop (𝓝 1) := by
+  conv =>
+    enter [1, n]
+    rw [mul_assoc, ← mul_inv, ← div_eq_mul_inv, mul_div_mul_comm]
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:201]: There's no need to work this hard (using `conv` and manual rewriting):
```suggestion
  have (k : ℕ) : (a + k) * (b + k) * (c + k)⁻¹ * ((1 : 𝕂) + k)⁻¹ =
      (a + k) / (c + k) * ((b + k) / (1 + k)) := by field_simp
  simp_rw [this]
```
I also think it's easier to read this.

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean [hunk 27]
```diff
@@ -0,0 +1,221 @@
...
+    rw [norm_ne_zero_iff]
+  any_goals
+    apply (ascPochhammer_eval_eq_zero_iff n _).not.2
+    push_neg
+    exact fun kn hkn ↦ by simp [habc kn hkn]
+  exact cast_ne_zero.2 (factorial_ne_zero n)
+
+/-- The ratio of successive terms of `ordinaryHypergeometricSeries` tends to one. This theorem
+is used in the proof `ordinaryHypergeometric_ratio_tendsto_nhds_atTop`. -/
+theorem ordinaryHypergeometricSeries_ratio_tendsto_one_atTop :
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:197]: The name here isn't right, but in any case I recommend inlining this lemma.

**Review by ocfnash — APPROVED** [review]
Thanks for all of this!

Please apply the remaining suggestions and then feel free to merge 🎉 

bors d+

File: Mathlib/Analysis/Analytic/OfScalars.lean [hunk 28]
```diff
@@ -0,0 +1,120 @@
...
+theorem ofScalars_radius_of_tendsto [NormOneClass E] {r : NNReal} (hr : r ≠ 0)
+    (hc : Tendsto (fun n ↦ ‖c n.succ‖ / ‖c n‖) atTop (𝓝 r)) :
+      (ofScalars E c).radius = ENNReal.ofNNReal r⁻¹ := by
+  have hc' {r' : NNReal} (hr' : (r' : ℝ) ≠ 0) :
+    Tendsto (fun n ↦ ‖‖ofScalars E c (n + 1)‖ * r' ^ (n + 1)‖ /
+      ‖‖ofScalars E c n‖ * r' ^ n‖) atTop (𝓝 ↑(r' * r)) := by
+    simp_rw [norm_mul, norm_norm, ofScalars_norm, mul_div_mul_comm, ← norm_div, pow_succ,
+      mul_div_right_comm, div_self (pow_ne_zero _ hr'), one_mul, norm_div, NNReal.norm_eq]
+    exact mul_comm r' r ▸ Filter.Tendsto.mul hc tendsto_const_nhds
+
```
[the remark this answers is not in the document]
Comment (EdwardWatine) [reply Mathlib/Analysis/Analytic/OfScalars.lean:101]: Is this an accidental suggestion?

File: Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean (hunk 24 above)
Comment (EdwardWatine) [reply Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.lean:193]: Indeed there was, very clean!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
